US04766125
A mixture of 3 parts of α-(3-chloropropyl)-4-fluoro-α-(4-fluorophenyl)benzeneacetonitrile, 92 parts of concentrated sulfuric acid, 50 parts of water and 50 parts of acetic acid was stirred and refluxed for 24 hours. The reaction mixture was concentrated to about 100 parts and the product was extracted with methylbenzene. The extract was washed with water, dried, filtered and evaporated. The residue was suspended in petroleumether. The product was filtered off and crystallized from 2,2'-oxybispropane, yielding 1.41 parts of 3,3-bis(4-fluorophenyl)tetrahydro-2H-pyran-2-one; mp. 122.4° C. (intermediate 15).

reactant | α-(3-chloropropyl)-4-fluoro-α-(4-fluorophenyl)benzeneacetonitrile | ClCCCC(C#N)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H14ClF2N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,3-bis(4-fluorophenyl)tetrahydro-2H-pyran-2-one | FC1=CC=C(C=C1)C1(C(OCCC1)=O)C1=CC=C(C=C1)F | C17H14F2O2
